US06548538B2
tert-Butyl 2-methyl-2-[4-({[(4-methyl-1,3-oxazol-5-yl)methyl]amino}methyl)-phenoxy]-propanoate
1.25 g (4.73 mmol) of tert-butyl 2-(4-formylphenoxy)-2-methylpropanoate (Example I-4) and 0.64 g (5.67 mmol) of (4-methyl-1,3-oxazol-5-yl)methylamine (Example III-28) are together initially charged in 1,2-dichloroethane. At room temperature, 1.50 g (7.09 mmol) of sodium triacetoxyborohydride are added. The reaction mixture is stirred at room temperature for 4 hours and then admixed with saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic phase is dried over magnesium sulphate and freed from the solvent under reduced pressure. The residue is purified chromatographically on silica gel (dichloromethane/methanol 30:1) and then dried under reduced pressure. This gives 1.104 g (65% of theory) of the title compound.

reactant | tert-butyl 2-(4-formylphenoxy)-2-methylpropanoate | 4.73 mmol, 1.25 g | C(=O)C1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C15H20O4
reactant | (4-methyl-1,3-oxazol-5-yl)methylamine | 5.67 mmol, 0.64 g | CC=1N=COC1CN | C5H8N2O
reactant | sodium triacetoxyborohydride | 7.09 mmol, 1.50 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | tert-Butyl 2-methyl-2-[4-({[(4-methyl-1,3-oxazol-5-yl)methyl]amino}methyl)-phenoxy]-propanoate | CC(C(=O)OC(C)(C)C)(C)OC1=CC=C(C=C1)CNCC1=C(N=CO1)C | C20H28N2O4
